US07767827B2
Triethylamine (320 mL, 2.3 mol) was added to a methanol (700 mL) solution of 3-hydroxy-5-methylpyrazole (225 g, 2.3 mol) and the mixture was stirred at 60° C. for 30 minutes. Then, a methanol (300 mL) solution of di-tert-butyl dicarbonate (500 g, 2.3 mol) was added dropwise, and the mixture was stirred under heating at 60° C. for 6 hours. After completion of the reaction, the reaction mixture was concentrated and precipitated crystals were washed with hexane and diethyl ether to give a white solid of tert-butyl 3-hydroxy-5-methylpyrazole-1-carboxylate (441.0 g, yield: 97.1%). Melting point: 169˜171° C. (decomposed), 1H-NMR (DMSO, DMSO-d6, ppm): δ1.53 (s, 9H), 2.37 (s, 3H), 5.70 (s, 1H). The hydroxy proton could not be assigned.

reactant | Triethylamine | 2.3 mol, 320 mL | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxy-5-methylpyrazole | 2.3 mol, 225 g | OC1=NNC(=C1)C | C4H6N2O
reactant | di-tert-butyl dicarbonate | 2.3 mol, 500 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 300 mL | CO | CH4O
solvent | methanol | 700 mL | CO | CH4O
product | tert-butyl 3-hydroxy-5-methylpyrazole-1-carboxylate | 441.0 g, yield: 97.1% | OC1=NN(C(=C1)C)C(=O)OC(C)(C)C | C9H14N2O3
